US08957070B2
Benzyl 2-(1,3-thiazol-2-yl)-1H-indole-7-carboxylate
A solution (50 mL) of benzyl 3-(1,3-thiazol-2-ylethynyl)-2-[(trifluoroacetyl)amino]benzoate (2.21 g), copper iodide (0.146 mg), trans-cyclohexane-1,2-diamine (0.177 g) and tripotassium phosphate (3.27 g) in anhydrous 1,4-dioxane was stirred with heating under reflux for 2 hr. A saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=10:90-50:50) to give the title compound (1.20 g, yield 70%) as a pale-yellow oil.

reactant | benzyl 3-(1,3-thiazol-2-ylethynyl)-2-[(trifluoroacetyl)amino]benzoate | 50 mL, 2.21 g | S1C(=NC=C1)C#CC=1C(=C(C(=O)OCC2=CC=CC=C2)C=CC1)NC(C(F)(F)F)=O | C21H13F3N2O3S
reactant | trans-cyclohexane-1,2-diamine | 0.177 g | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | tripotassium phosphate | 3.27 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | copper iodide | 0.146 mg | [Cu](I)I
product | Benzyl 2-(1,3-thiazol-2-yl)-1H-indole-7-carboxylate | 1.20 g, yield 70% | S1C(=NC=C1)C=1NC2=C(C=CC=C2C1)C(=O)OCC1=CC=CC=C1 | C19H14N2O2S
